US08076374B2
Step E. 4-[1-Allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid methyl ester
A solution of 4-(1-allyl-1-hydroxymethyl-but-3-enyl)-benzoic acid methyl ester (0.768 g, 2.95 mmol), 2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ol (0.861 g, 3.23 mmol), and triphenylphosphine (1.180 g, 4.50 mmol) in toluene (30 mL) is treated with 1,1′-(azodicarbonyl)-dipiperidine (1.182 g, 4.68 mmol) and stirred overnight at 80° C. The reaction mixture is then cooled to room temperature, diluted with MeOH, and concentrated. The residue is loaded onto silica gel and eluted with hexanes using a gradient of 0% EtOAc to 40% EtOAc to provide 0.964 g (64%) of the title compound as a clear syrup. 1H NMR (CDCl3): δ 8.02-8.00 (m, 2H), 7.67 (d, J=8.0 Hz, 2H), 7.46-7.44 (m, 2H), 7.26 (d, J=7.8 Hz, 2H), 6.68 (s, 2H), 5.60-5.54 (m, 2H), 5.08-5.00 (m, 4H), 4.15 (s, 2H), 3.91 (s, 3H), 2.66 (d, J=7.6 Hz, 4H), 1.99 (s, 6H).

reactant | 4-(1-allyl-1-hydroxymethyl-but-3-enyl)-benzoic acid methyl ester | 2.95 mmol, 0.768 g | COC(C1=CC=C(C=C1)C(CC=C)(CO)CC=C)=O | C16H20O3
reactant | 2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ol | 3.23 mmol, 0.861 g | CC1=C(C(=CC(=C1)O)C)C1=CC=C(C=C1)C(F)(F)F | C15H13F3O
reactant | triphenylphosphine | 4.50 mmol, 1.180 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 4.68 mmol, 1.182 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
product | 4-[1-Allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid methyl ester | 0.964 g, 64% | COC(C1=CC=C(C=C1)C(CC=C)(COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)CC=C)=O | C31H31F3O3
